US04857539
(a) 4-(2-Thienyl)phenol [IV; R1 and R2 =H, Het=2-thienyl].
To a solution of 8.80 g (2-(4-methoxyphenyl)thiophene (prepared from 2-thienylmagnesium bromide and p-iodoanisole) and 5.4 ml propanethiol in 100 ml dry dimethylformamide was carefully added 7.00 g 35% potassium hydride in mineral oil. The reaction mixture was heated at reflux under nitrogen for 16 hours. Isolation of the resulting product afforded after crystallization 2.42 g 4-(2-thienyl)phenol as a yellow powder.

reactant | 2-(4-methoxyphenyl)thiophene | COC1=CC=C(C=C1)C=1SC=CC1 | C11H10OS
reactant | propanethiol | 5.4 ml | C(CC)S | C3H8S
reactant | potassium hydride | 7.00 g | [H-].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(2-Thienyl)phenol | S1C(=CC=C1)C1=CC=C(C=C1)O | C10H8OS
